US07115611B2
To a solution of 2.86 g (7.8 mmol) 4-cyclopropyl-6-methoxymethyl-2-(4-trifluoromethyl-phenyl)-pyrimidine-5-carboxylic acid methyl ester in 30 ml tetrahydrofurane was dropped at −78° C., 20 ml (24 mmol) of a DIBALH-solution (1.2 M in toluene). The reaction was stirred for 15 min at −70° C., then the dry-ice bath was removed, the reaction temperature was allowed to come to RT and the solution was stirred for 2 h at RT. To the reaction mixture was then dropped carefully, under ice-cooling, 13 ml of 6N HCl. The reaction mixture was then taken up in ether and was washed with water. The ether-phase was concentrated under reduced pressure providing 1.29 g of pure crystalline [4-cyclopropyl-6-methoxymethyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-methanol.

reactant | 4-cyclopropyl-6-methoxymethyl-2-(4-trifluoromethyl-phenyl)-pyrimidine-5-carboxylic acid methyl ester | 7.8 mmol, 2.86 g | COC(=O)C=1C(=NC(=NC1COC)C1=CC=C(C=C1)C(F)(F)F)C1CC1 | C18H17F3N2O3
reactant | DIBALH | 24 mmol, 1.2 M, 20 ml | CC(C)C[AlH]CC(C)C
solvent | tetrahydrofurane | 30 ml | O1CCCC1 | C4H8O
product | [4-cyclopropyl-6-methoxymethyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-methanol | 1.29 g | C1(CC1)C1=NC(=NC(=C1CO)COC)C1=CC=C(C=C1)C(F)(F)F | C17H17F3N2O2
